US07557114B2
(b) 5-Methyl-6-morpholin-4-yl-2,3-dihydro-1H-isoindole hydrochloride
Prepared in analogy to Example A3(e) from 5-methyl-6-morpholin-4-yl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and hydrochloric acid. Brown solid. MS (m/e): 219.3 ([M+H]+, 100%).

reactant | 5-methyl-6-morpholin-4-yl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)C)N1CCOCC1 | C18H26N2O3
reactant | hydrochloric acid | Cl | ClH
product | 5-Methyl-6-morpholin-4-yl-2,3-dihydro-1H-isoindole hydrochloride | Cl.CC=1C=C2CNCC2=CC1N1CCOCC1 | InChI=1S/C13H18N2O.ClH/c1-10-6-11-8-14-9-12(11)7-13(10)15-2-4-16-5-3-15;/h6-7,14H,2-5,8-9H2,1H3;1H
